US06900215B2
4-Hydroxy-3,3-dimethylbutan-2-one (prepared according to the procedure described in U.S. Pat. No. 4,255,434) (5.00 g, 43.0 mmol) was protected as the acetate following the procedure in Example 6, then converted to the diethyl acetal as described in Example 3, and condensed with 2-aminoimidazole hemisulfate as described in Example 2, to give 2-(imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropan-1-ol (1.43 g, 17%) as a white solid: δH (360 MHz, CDCl3) 1.37 (6H, s), 3.87 (2H, s), 5.29 (1H, s), 6.93 (1H, d, J 7), 7.47 (1H, d, J 1), 7.74 (1H, d, J 1), 8.37 (1H, d, J 7).

reactant | 4-Hydroxy-3,3-dimethylbutan-2-one | OCC(C(C)=O)(C)C | C6H12O2
reactant | acetate | C(C)(=O)[O-]
reactant | 2-aminoimidazole hemisulfate | S(=O)(=O)(O)O.NC=1NC=CN1.NC=1NC=CN1
product | 2-(imidazo[1,2-α]pyrimidin-7-yl)-2-methylpropan-1-ol | 1.43 g, 17% | N=1C=CN2C1N=C(C=C2)C(CO)(C)C | C10H13N3O
